US05578627
To a solution of 0.8 g of 5-chloro-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 8 ml of N,N-dimethylformamide are added 1.6 ml of triethylamine and 0.51 g of methyl isothiocyanate at room temperature, and they are subjected to reaction at 110° C. for four hours. After cooling, water and ethyl acetate are added to the reaction mixture, they are shaken and the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a silica gel column chromatography [eluant:toluene:ethyl acetate=5:1], to obtain 0.4 g of brown, solid 5-chloro-3-(2-tert-butoxy carbonylamino-3-methylthiocarbamoyloxypropoxy)-1,2-benzoisoxazole.

reactant | 5-chloro-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 0.8 g | ClC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C15H19ClN2O5
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isothiocyanate | 0.51 g | CN=C=S | C2H3NS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-3-(2-tert-butoxy carbonylamino-3-methylthiocarbamoyloxypropoxy)-1,2-benzoisoxazole | ClC=1C=CC2=C(C(=NO2)OCC(COC(NC)=S)NC(=O)OC(C)(C)C)C1 | C17H22ClN3O5S
